US07547710B2
A mixture of 6-bromo-2-isobutyl-4-(4-methylphenyl)quinoline-3-carbonitrile (5.00 g, 13.2 mmol), acrolein (2.22 g, 39.6 mmol), benzyltriethylammonium chloride (3.00 g, 13.2 mmol), triethylamine (5.5 ml, 39.6 mmol), palladium acetate (150 mg, 0.66 mmol) and N,N-dimethylformamide (40 ml) was stirred under an argon atmosphere at 70° C. After 3 hrs., palladium acetate (150 mg, 0.66 mmol) and acrolein (2.22 g, 39.6 mmol) were added to the reaction mixture and the mixture was stirred at the same temperature for 17 hrs. The reaction mixture was diluted with ethyl acetate, washed 4 times with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give 2-isobutyl-4-(4-methylphenyl)-6-[(1E)-3-oxoprop-1-en-1-yl]quinoline-3-carbonitrile (3.26 g, yield 70%) as white crystals.

reactant | 6-bromo-2-isobutyl-4-(4-methylphenyl)quinoline-3-carbonitrile | 13.2 mmol, 5.00 g | BrC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)C#N)C1=CC=C(C=C1)C | C21H19BrN2
reactant | acrolein | 39.6 mmol, 2.22 g | C(=O)C=C | C3H4O
reactant | triethylamine | 39.6 mmol, 5.5 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
reactant | acrolein | 39.6 mmol, 2.22 g | C(=O)C=C | C3H4O
catalyst | benzyltriethylammonium chloride | 13.2 mmol, 3.00 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.66 mmol, 150 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 0.66 mmol, 150 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-isobutyl-4-(4-methylphenyl)-6-[(1E)-3-oxoprop-1-en-1-yl]quinoline-3-carbonitrile | 3.26 g, yield 70% | C(C(C)C)C1=NC2=CC=C(C=C2C(=C1C#N)C1=CC=C(C=C1)C)\C=C\C=O | C24H22N2O
